US05811459
A mixture of methyl 6-[2-benzyloxy-5-bromophenethyl]-2-chloro-3-pyridinecarboxylate (7.0 g) and sodium methoxide (2.5 mole equivalents) in methanol was heated at 140° C. for 5 hours in a Carius Tube. The solvent was evaporated and the residue extracted with ethyl acetate and washed with saturated aqueous NH4Cl, water and brine. The organic solution was dried (Na2SO4), filtered and evaporated. The residue was purified by chromatography on 7734 silica gel, eluting with 1% MeOH/CH2Cl2, to give methyl 6-[2-benzyloxy-5-bromophenethyl]-2-methoxy-3-pyridinecarboxylate (6.16 g).

reactant | methyl 6-[2-benzyloxy-5-bromophenethyl]-2-chloro-3-pyridinecarboxylate | 7.0 g | C(C1=CC=CC=C1)OC1=C(CCC2=CC=C(C(=N2)Cl)C(=O)OC)C=C(C=C1)Br | C22H19BrClNO3
reactant | sodium methoxide | 2.5 mole | C[O-].[Na+]
solvent | methanol | CO | CH4O
product | methyl 6-[2-benzyloxy-5-bromophenethyl]-2-methoxy-3-pyridinecarboxylate | 6.16 g | C(C1=CC=CC=C1)OC1=C(CCC2=CC=C(C(=N2)OC)C(=O)OC)C=C(C=C1)Br | C23H22BrNO4
